US04530836
12.47 g (0.035 mole) of Z-Asp(OBz)-NH2 (m.p. 118°-120° C. [α]D24 -2.6° (C=1, methanol). Anal. Calcd. (%) for C19H20N2O5 : C, 64.04; H, 5.66; N, 7.86. Found (%): C, 64.04, H, 5.73, N, 7.73) was dissolved in a mixture of 300 ml of methanol and 35 ml of 1N HCl and subjected to contact reduction with hydrogen (at room temperature for 6 hours) in the presence of 1.75 g of a 10% Pd-carbon catalyst. The catalyst was then filtered off, the solvent was distilled off, and the residue was dried in vacuo. On the other hand, 9.36 g (0.035 mole) of Boc-Met-OH wa dissolved in 50 ml of THF, the solution was cooled to -20° C., and 3.85 ml of N-methylmorpholine and 4.62 ml of isobutyl chloroformate were added. The resulting mixed anhydride was admixed with a solution of the above obtained H-Asp-NH2 in 50 ml of DMF (containing 4.90 ml of triethylamine). The mixture was stirred at 0° C. for 10 minutes, at 40° C. for 1 minute, and at room temperature for 20 minutes. The reaction mixture was treated in the same manner as in (1) of Example 1, giving 8.30 g of Boc-Met-Asp-NH2 ; yield 65.2%, m.p. 226°-229° C.

reactant | Z-Asp(OBz)-NH2 | 0.035 mole, 12.47 g | N([C@@H](CC(OC(=O)C1=CC=CC=C1)=O)C(=O)N)C(=O)OCC1=CC=CC=C1 | C19H18N2O6
reactant | hydrogen | [H][H] | H2
reactant | Boc-Met-OH | 0.035 mole, 9.36 g | N([C@@H](CCSC)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4S
reactant | N-methylmorpholine | 3.85 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 4.62 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | methanol | 300 ml | CO | CH4O
solvent | HCl | 1N, 35 ml | Cl | ClH
catalyst | Pd carbon | [Pd].[C]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | H-Asp-NH2 | N[C@@H](CC(O)=O)C(=O)N | C4H8N2O3
